US06326369B1
1-Bromo-2,3,4,5-tetramethoxy-6-methylbenzene
Bromine (46.7 g, 0.292 mols) was dropwise added to a solution of 1,2,3,4-tetramethoxy-5-methylbenzene (51.6 g, 0.243 mols) in acetic acid (100 ml) at room temperature, and the reaction mixture was stirred for 15 minutes and then concentrated in vacuo. The residue was diluted with ethyl acetate, and the organic layer was washed with water, a saturated aqueous sodium bicarbonate solution, water and a saturated aqueous sodium chloride solution, then dried, and concentrated in vacuo. The thus-obtained crude product was purified by silica gel column chromatography (hexane:ethyl acetate=20:1) to obtain the entitled compound (59.1 g) as an oil.

reactant | Bromine | 0.292 mols, 46.7 g | BrBr | Br2
reactant | 1,2,3,4-tetramethoxy-5-methylbenzene | 0.243 mols, 51.6 g | COC1=C(C(=C(C(=C1)C)OC)OC)OC | C11H16O4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-Bromo-2,3,4,5-tetramethoxy-6-methylbenzene | 59.1 g | BrC1=C(C(=C(C(=C1C)OC)OC)OC)OC | C11H15BrO4
